US07253192B2
In analogy to the procedure described in example 1D], 2-(4-hydroxy-5-methoxy-2-methyl-phenoxy)-2-methyl-propionic acid methyl ester was reacted with methanesulfonic acid 5-(4-trifluoromethoxy-phenyl)-pent-4-ynyl ester (example 1G]) in the presence of NaI and Cs2CO3 in acetonitrile under reflux conditions for 4 h, to give 2-{5-methoxy-2-methyl-4-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-phenoxy}-2-methyl-propionic acid methyl ester as colorless oil.

reactant | 2-(4-hydroxy-5-methoxy-2-methyl-phenoxy)-2-methyl-propionic acid methyl ester | COC(C(C)(C)OC1=C(C=C(C(=C1)OC)O)C)=O | C13H18O5
reactant | methanesulfonic acid 5-(4-trifluoromethoxy-phenyl)-pent-4-ynyl ester | FC(OC1=CC=C(C=C1)C#CCCCOS(=O)(=O)C)(F)F | C13H13F3O4S
reactant | NaI | [Na+].[I-]
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-{5-methoxy-2-methyl-4-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-phenoxy}-2-methyl-propionic acid methyl ester | COC(C(C)(C)OC1=C(C=C(C(=C1)OC)OCCCC#CC1=CC=C(C=C1)OC(F)(F)F)C)=O | C25H27F3O6
